US05728708
100 mg (0.26 mmol) of N-[3-methoxycarbonyl-phenyl]-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine and 0.5 ml of 1,3-diamino-propane are stirred for 24 h at 90° and then diluted with 20 ml of ethyl acetate and extracted with 2×10 ml of sodium chloride solution. The organic phase is dried, concentrated and crystallised from methylene chloride/diethyl ether to give N-[3-{N-(3-amino-propyl)-aminocarbonyl}-phenyl]-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine;

reactant | N-[3-methoxycarbonyl-phenyl]-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine | 0.26 mmol, 100 mg | COC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCCO | C20H21N5O3
reactant | 1,3-diamino-propane | 0.5 ml | NCCCN | C3H10N2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-{N-(3-amino-propyl)-aminocarbonyl}-phenyl]-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine | NCCCNC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCCO | C22H27N7O2
